US07528129B2
23e) (S)-2-(4-hydroxy-3-methoxy-5-methyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid
A suspension of 7.60 g (12.98 mmol) (S)-2-(4-benzyloxy-3-methoxy-5-methyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid and 0.76 g 10% Pd/C in 2 mL triethylamine and 150 mL MeOH was hydrogenated at RT and 2620 hPa hydrogen pressure for 16 h. To complete the reaction a further 0.38 g 10% Pd/C were added and the mixture was again hydrogenated for 3 h at RT. The catalyst was filtered off through Celite and the filtrate was concentrated by evaporation i.vac. The product was further reacted without purification.

reactant | (S)-2-(4-benzyloxy-3-methoxy-5-methyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid | 12.98 mmol, 7.60 g | C(C1=CC=CC=C1)OC1=C(C=C(C[C@H](C(=O)O)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C1C)OC | C34H39N3O6
reactant | hydrogen | [H][H] | H2
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | MeOH | 150 mL | CO | CH4O
catalyst | Pd/C | 0.76 g | [Pd] | Pd
catalyst | Pd/C | 0.38 g | [Pd] | Pd
product | (S)-2-(4-hydroxy-3-methoxy-5-methyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid | OC1=C(C=C(C[C@H](C(=O)O)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C1C)OC | C27H33N3O6
